US06495565B2
p-Toluenesulfonic acid (0.18 g) was added to a solution of 1,3-dihydroxyacetone (2.75 g, 30.5 mmol) in 2,2-dimethoxypropane (25 ml). The reaction was heated to reflux for 1.5 hs. The reaction was allowed to cool to room temperature and was concentrated to give the 2,2-dimethyl-1,3-dioxan-5-one as a crude oil.

reactant | p-Toluenesulfonic acid | 0.18 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 1,3-dihydroxyacetone | 30.5 mmol, 2.75 g | OCC(=O)CO | C3H6O3
solvent | 2,2-dimethoxypropane | 25 ml | COC(C)(C)OC | C5H12O2
product | 2,2-dimethyl-1,3-dioxan-5-one | CC1(OCC(CO1)=O)C | C6H10O3
